US05859007
Benzofuran-3-carboxylic acid methyl ester
A stirring solution of 2.43 g (9.45 mmol) of 3-(2-Bromo-phenoxy) acrylic acid methyl ester, prepared as in Intermediate 17, 1.98 g (7.56 mmol, 0.8 equiv) of triphenylphosphine, 794 mg (9.45 mmol, 1.0 equiv) of NaHCO3, and 848 mg (3.78 mmol, 0.4 equiv) of palladium (II) acetate in 25 mL of DMF is heated to 110° C. for 16 h. After cooling to RT, the reaction mixture is diluted with 100 mL of Et2O and extracted with H2O (1×100 mL), dried (MgSO4), and the solvents removed in vacuo. Purification of the crude material by silica gel flash column chromatography afforded 650 mg of the title compound as a yellow oil: 1H NMR (CDCl3, 300 MHz) δ8.22 (s, 1H), 8.06 (m, 1H), 7.55 (m, 1H), 7.37 (m, 2H), 3.95 (s, 3H); Rf =0.50 in hexane/EtOAc 5/1.

reactant | 3-(2-Bromo-phenoxy) acrylic acid methyl ester | 9.45 mmol, 2.43 g | COC(C=COC1=C(C=CC=C1)Br)=O | C10H9BrO3
reactant | triphenylphosphine | 7.56 mmol, 1.98 g, 0.8 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaHCO3 | 9.45 mmol, 794 mg, 1.0 equiv | C(=O)(O)[O-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 100 mL | CCOCC | C4H10O
catalyst | palladium (II) acetate | 3.78 mmol, 848 mg, 0.4 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Benzofuran-3-carboxylic acid methyl ester | 650 mg | COC(=O)C1=COC2=C1C=CC=C2 | C10H8O3
